US06812235B2
To a solution of ethyl N-(tert-butoxycarbonyl)-3-(2-propenylamino)propionate (1.12 g, 4.86 mmol) was added 1N solution of lithium bis(trimethylsilyl)amide in tetrahydrofuran (THF) (5.8 mL) and allyl bromide (1.46 mL, 17.0 mmol) successively at −78° C. The mixture was stirred at 0° C. for an hour, then quenched by a saturated aqueous NH4Cl solution and extracted with ethyl acetate. The extract was washed with water and brine, dried over Na2SO4, and evaporated in vacuo. The residue was purified by a silica gel column chromatography eluting with a mixture of ethyl acetate and n-hexane (1:20) to give ethyl N-(tert-butoxycarbonyl)-2-(2-propenyl)-3-(2-propenylamino)propionate (0.7 g, 2.35 mmol, 48.4%) as a colourless oil.

reactant | ethyl N-(tert-butoxycarbonyl)-3-(2-propenylamino)propionate | 4.86 mmol, 1.12 g | C(C)(C)(C)OC(=O)N(CCC(=O)OCC)CC=C | C13H23NO4
reactant | lithium bis(trimethylsilyl)amide | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | allyl bromide | 17.0 mmol, 1.46 mL | C(C=C)Br | C3H5Br
solvent | tetrahydrofuran | 5.8 mL | O1CCCC1 | C4H8O
product | ethyl N-(tert-butoxycarbonyl)-2-(2-propenyl)-3-(2-propenylamino)propionate | 2.35 mmol, 0.7 g, 48.4% | C(C)(C)(C)OC(=O)N(CC(C(=O)OCC)CC=C)CC=C | C16H27NO4
